US04199354
E. (3,5-dicarboxy-4-nitrophenoxy)-N,N-dihexylacetamide
A solution of crude (3,5-dicarbomethoxy-4-nitrophenoxy)-N,N-dihexylacetamide in ethanol is treated with aqueous sodium hydroxide (3 equivalents) at room temperature for 15 min. After this time the reaction is poured into cold dilute hydrochloric acid. The diacid product which precipitates is collected and washed well with water; m.p. 180°-184° C.

reactant | (3,5-dicarbomethoxy-4-nitrophenoxy)-N,N-dihexylacetamide | C(=O)(OC)C=1C=C(OCC(=O)N(CCCCCC)CCCCCC)C=C(C1[N+](=O)[O-])C(=O)OC | C24H36N2O8
reactant | sodium hydroxide | 3 equivalents | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (3,5-dicarboxy-4-nitrophenoxy)-N,N-dihexylacetamide | C(=O)(O)C=1C=C(OCC(=O)N(CCCCCC)CCCCCC)C=C(C1[N+](=O)[O-])C(=O)O | C22H32N2O8
